US07612114B2
Synthesized from 6-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)pyridin-3-ylamine and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 282, [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]-[6-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)pyridin-3-yl]amine (548 mg) was used according to an analogous synthetic method to Example 36 to provide ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][6-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)pyridin-3-yl]amine (454 mg). This compound (452 mg) was used according to an analogous synthetic method to Example 111 to provide 6-{3-{ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-6-methoxypyridin-2-yl}-5,6,7,8-tetrahydronaphthalen-2-ol (140 mg) and 5-{ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-6-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)pyridin-2-ol (60 mg).

reactant | 6-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)pyridin-3-ylamine | COC1=CC=C(C(=N1)C1CC2=CC=C(C=C2CC1)OC)N | C17H20N2O2
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | Cl.FC=1C=C(C(=O)O)C=CC1OCCN1CCCCC1
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]-[6-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)pyridin-3-yl]amine | 548 mg | FC=1C=C(CNC=2C(=NC(=CC2)OC)C2CC3=CC=C(C=C3CC2)OC)C=CC1OCCN1CCCCC1 | C31H38FN3O3
product | ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][6-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)pyridin-3-yl]amine | 454 mg | C(C)N(C=1C(=NC(=CC1)OC)C1CC2=CC=C(C=C2CC1)OC)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C33H42FN3O3
